US07713994B2
4-[(3-Hydroxy-4-iodo-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound is prepared from 6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione (60 mg, 0.22 mmol) and 5-Aminomethyl-2-iodo-phenol (58 mg, 0.23 mmol) in 80% yield: MS (ESI): 485.1 (M−1)−1.

reactant | 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.22 mmol, 60 mg | O1C(=CC=C1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C15H11NO4
reactant | 5-Aminomethyl-2-iodo-phenol | 0.23 mmol, 58 mg | NCC=1C=CC(=C(C1)O)I | C7H8INO
product | 4-[(3-Hydroxy-4-iodo-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione | 80% yield | OC=1C=C(CNC=C2C(NC(C3=CC=C(C=C23)I)=O)=O)C=CC1I | C17H12I2N2O3
